* Dzwonek do drzwi

.model DMOD D (bv=500 is=1e-13 n=1.05 vj=0.7 php=0.7)
.model QMOD NPN level=2 bf=150

V1 n1 0 SIN(0 310 50 0 0 0)
*V2 n1 0 SIN(0 310 50 10 0 180)
R1 n1 n2 6.4k
D1 n2 n3 DMOD
R2 n3 n4 27
R3 n3 n5 47k
C1 n4 0 470uF IC=0V
R5 n5 n6 1k
C4 n6 0 100uF IC=0V
R4 n5 n9 1k
C2 n9 n8 15nF IC=0V
C3 n8 n10 0.1uF IC=0V
Q1 n10 n5 0 QMOD
L1 n4 n10 3H IC=0A
L2 n8 n4 3H IC=0A

* Speaker circuit:
L3 n11 n12 3H IC=0A
R6 n11 n13 15
L4 n13 n12 3H IC=0A
* RL4 n13 n12 0  $ removed L4 and replaced with 0 Ohm
R7 n12 0 100k
.IC V(n11)=0, V(n12)=0, V(n13)=0

* Transformer setup
K1 L1 L2 1
K2 L2 L3 1
K3 L3 L1 1

.end

